data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_173564_0,[C:1](/[C:5](=[C:4]([C:2](\[N:3]([H:9])[H:10])=[N:7]\[O:6][H:8])/[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:5]1([H:12])[C:4]([H:11])=[C:2]([N:3]([H:9])[H:10])[N:7]1[O:6][H:8])([H:13])([H:14])[H:15],44.62215249998337
MR_373767_1,[C:1]([N:6]([C:2]([H:12])([H:13])[H:14])/[N:5]=[N:3]/[N:4]([H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:3]([N:4]([H:7])[H:8])/[N:5]=[N:6]/[C:2]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11],65.86553749999553
MR_63683_1,[C:1](/[C:2](=[N:3]/[H:5])[H:7])(=[O:4])[H:6]>>[C:1]1([H:6])([H:7])[C:2]([N:3][H:5])[O:4]1,64.80318000000253
MR_512848_1,[C:1](/[C:2]([C:5](=[O:8])[H:12])=[N:7]\[H:11])([C:3]([N:4]([H:9])[H:10])=[C:6]([H:15])[H:16])([H:13])[H:14]>>[C:1]1([H:13])([H:14])/[C:2](=[N:7]\[H:11])[C:5]([N:4]([H:9])[H:10])([H:12])[O:8][C:3]1=[C:6]([H:15])[H:16],68.15214750000081
MR_253184_0,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](\[C:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[O:7][H:8])[H:12])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:6](=[C:4](\[C:3]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])[H:12])([O:7][H:8])[H:9],51.80326250004413
MR_379865_1,[C:1]([C:2]([N:3]([H:11])[H:12])([O:6][H:10])[O:7][H:8])(=[O:4])[O:5][H:9]>>[C:1]([C:2]([O:6][H:10])=[O:7])([N:3]([H:11])[H:12])([O:4][H:8])[O:5][H:9],42.71266999998901
MR_342734_0,[C:1]1([H:14])([H:15])[N:5]([C:3]([H:19])([H:20])[H:21])[N:4]([C:2]([H:16])([H:17])[H:18])[C:6]([N:8]([H:10])[H:11])=[C:7]1[N:9]([H:12])[H:13]>>[C:1]1([H:14])([H:15])[N:5]([C:3]([H:19])([H:20])[H:21])[C@@:7]1(/[C:6](=[N:4]/[C:2]([H:16])([H:17])[H:18])[N:8]([H:10])[H:11])[N:9]([H:12])[H:13],39.592739999983166
MR_571165_0,[N:1]([C:2]([O:5][H:9])=[O:8])(/[C:3]([O:6][H:10])=[N:7]/[H:13])[N:4]([H:11])[H:12]>>[N:1](=[C:3](\[O:6][H:10])[N:7]([C:2]([O:5][H:9])=[O:8])[H:13])\[N:4]([H:11])[H:12],35.1211750000013
MR_421444_1,[C:1]([C:4]([H:15])([H:17])[H:18])([C:5]([H:16])([H:19])[H:20])([N:6]([H:9])[H:10])[N:7]([C:3]([C:2](=[O:8])[H:12])([H:13])[H:14])[H:11]>>[C:1]1([C:4]([H:15])([H:17])[H:18])([C:5]([H:16])([H:19])[H:20])[N:6]([H:10])[C:2]([O:8][H:9])([H:12])[C:3]([H:13])([H:14])[N:7]1[H:11],37.54081500002741
MR_657147_1,[C@:1]([C:5](=[O:8])[H:11])([C:6](=[C:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[H:12])([O:7][H:9])[H:10]>>[C:1](=[C:6](\[C:4]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:5](=[O:8])[H:11])[H:12])(\[O:7][H:9])[H:10],55.79102499999905
MR_651636_2,[C:1](/[C:3](=[N:2]\[O:5][H:8])[O:7][H:9])(/[C:4](=[N:6]\[H:10])[H:13])([H:11])[H:12]>>[C:1]([C:3]([N:2]([O:5][H:8])[H:9])=[O:7])(/[C:4](=[N:6]\[H:10])[H:13])([H:11])[H:12],38.67847249997297
MR_657240_0,[C:1](=[C:4](/[C:2](=[C:3](\[O:6][H:10])[H:8])[O:5][H:7])[H:9])([H:11])[H:12]>>[C:1](/[C:4](=[C:2](/[C:3](=[O:6])[H:8])[O:5][H:7])[H:9])([H:10])([H:11])[H:12],58.53508249999081
MR_315963_0,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]1([N:5]([H:10])[H:11])/[C:4](=[N:8]\[H:15])[N:7]1[H:14])([N:6]([H:12])[H:13])[H:9]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:4](/[C:3]([N:5]([H:10])[H:11])=[N:7]/[H:14])=[N:8]/[H:15])([N:6]([H:12])[H:13])[H:9],43.33263999999318
MR_610369_0,[n:1]1([H:9])[c:2](=[O:8])[o:7][c:3]([N:5]([H:10])[H:11])[c:4]1[N:6]([H:12])[H:13]>>[N:1]1([H:9])[C:2](=[O:8])[C@:4]1([C:3]([N:5]([H:10])[H:11])=[O:7])[N:6]([H:12])[H:13],47.26141749999002
MR_454714_0,[C:1]1([O:6][H:7])([H:10])[N:4]([H:9])[C:2]([H:11])([H:12])[N:3]([H:8])[O:5]1>>[C:1]([N:4]([C:2]([N:3]([O:5][H:7])[H:8])([H:11])[H:12])[H:9])(=[O:6])[H:10],24.62623750003189
MR_237805_2,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[O:8][H:11])[O:7][H:10])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([N:3]1[C:4]([O:6][H:9])([O:7][H:10])[C:5]1([C:2]([H:15])([H:16])[H:17])[O:8][H:11])([H:12])([H:13])[H:14],29.76546250000453
MR_359548_0,[C:1]([N:3]([N:5]([H:9])[H:10])[H:8])(/[C:4]([N:6]([H:11])[H:12])=[N:7]/[C:2]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:1](=[C:4]([N:6]([H:11])[H:12])[N:7]([C:2]([H:15])([H:16])[H:17])[N:3]([N:5]([H:9])[H:10])[H:8])([H:13])[H:14],65.77768750000331
MR_695704_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]12[C:6]([H:12])=[C:5]([O:8][H:10])[N:9]1[O:7]2)[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([c:4]1[c:6]([H:12])[c:5]([O:8][H:10])[n:9][o:7]1)[H:11],17.394300000028124
MR_113379_0,[C:1]([C:3](/[C:2]([N:4]([H:8])[H:9])=[C:6](/[N:5]([H:10])[H:11])[H:12])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:2]([N:4]([H:8])[H:9])[C@:6]([N:5]([H:10])[H:11])([H:12])[C:7]1([H:16])[H:17])([H:13])([H:14])[H:15],31.81675999996187
MR_129155_1,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[O:5][H:7])([N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[H:9])([N:4]([H:10])[H:11])([O:5][H:7])[O:6][H:8],65.77580500000806
MR_238695_2,[C:1]1([C:4]([C:2]([H:9])([H:10])[H:11])=[C:6]([H:14])[H:15])([H:8])[C:3](=[C:5]([H:12])[H:13])[O:7]1>>[C:1]([C:3]([C:4]([C:2]([H:9])([H:10])[H:11])=[C:6]([H:14])[H:15])=[C:5]([H:12])[H:13])(=[O:7])[H:8],62.26054999996592
